*Feb 19, 2010 *Doc. ID: 90199, Rev. A *File Name: part irf630_sihf630_PS.txt and part irf630_sihf630_PS.spi 
*This document is intended as a SPICE modeling guideline and does not 
*constitute a commercial product datasheet. Designers should refer to the 
*appropriate data sheet of the same number for guaranteed specification 
*limits. 
.SUBCKT irf630 1 2 3 
************************************** 
* Model Generated by MODPEX * *Copyright(c) Symmetry Design Systems* 
* All Rights Reserved * 
* UNPUBLISHED LICENSED SOFTWARE * 
* Contains Proprietary Information * 
* Which is The Property of * 
* SYMMETRY OR ITS LICENSORS * 
*Commercial Use or Resale Restricted * 
* by Symmetry License Agreement * 
************************************** 
* Model generated on Jun 25, 96 
* Model format: SPICE3 
* Symmetry POWER MOS Model (Version 1.0) 
* External Node Designations 
* Node 1 -> Drain 
* Node 2 -> Gate 
* Node 3 -> Source 
M1 9 7 8 8 MM L=100u W=100u 
* Default values used in MM: 
* The voltage-dependent capacitances are 
* not included. Other default values are: 
* RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0 
.MODEL MM NMOS LEVEL=1 IS=1e-32 
+VTO=3.90614 LAMBDA=0 KP=2.70091 
+CGSO=7.25845e-06 CGDO=1e-11 
RS 8 3 0.0001 
D1 3 1 MD 
.MODEL MD D IS=2.59955e-15 RS=0.0232241 N=0.818263 BV=200 
+IBV=0.00025 EG=1 XTI=2.54918 TT=0 
+CJO=6.35847e-10 VJ=5 M=0.772431 FC=0.5 
RDS 3 1 8e+06 
RD 9 1 0.169992 
RG 2 7 4.09017 
D2 4 5 MD1 
* Default values used in MD1: 
* RS=0 EG=1.11 XTI=3.0 TT=0 
* BV=infinite IBV=1mA 
.MODEL MD1 D IS=1e-32 N=50
+CJO=1.28188e-09 VJ=1.20026 M=0.9 FC=1e-08 
D3 0 5 MD2 
* Default values used in MD2: 
* EG=1.11 XTI=3.0 TT=0 CJO=0 
* BV=infinite IBV=1mA 
.MODEL MD2 D IS=1e-10 N=0.413904 RS=3e-06 
RL 5 10 1 
FI2 7 9 VFI2 -1 
VFI2 4 0 0 
EV16 10 0 9 7 1 
CAP 11 10 1.2819e-09 
FI1 7 9 VFI1 -1 
VFI1 11 6 0 
RCAP 6 10 1 
D4 0 6 MD3 
* Default values used in MD3: 
* EG=1.11 XTI=3.0 TT=0 CJO=0 
* RS=0 BV=infinite IBV=1mA 
.MODEL MD3 D IS=1e-10 N=0.413904 
.ENDS